US05747443
Synthesis of bis(2-hydroxybutyl)ether
A 500 ml, three neck, round bottom flask equipped with magnetic stirrer, internal thermometer, addition funnel, condenser, argon supply, and heating mantle, is flushed with argon. Then 1,2-butanediol (about 270 g, about 3 moles, Aldrich) is added and sodium metal (about 1.2 g, about 0.05 moles, Aldrich) is added and the sodium is allowed to dissolve. Then the reaction mixture is heated to about 100° C. and epoxybutane (about 71 g. about 1 mole, Aldrich) is added dropwise with stirring. Heating is continued until the reflux of epoxybutane has ceased and heating is continued for an additional hour to drive the conversion to completion. The reaction mixture is neutralized with sulfuric acid, the salts are removed by filtration, and the liquid is fractionally distilled under vacuum to recover the excess butanediol. The desired ether is obtained as a residue. Optionally, it is purified by further vacuum distillation.

reactant | 1,2-butanediol | about 3 moles, about 270 g | C(C(CC)O)O | C4H10O2
reactant | sodium | about 0.05 moles, about 1.2 g | [Na] | Na
reactant | epoxybutane | about 1 mole, about 71 g | O1CC1CC | C4H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | bis(2-hydroxybutyl)ether | OC(COCC(CC)O)CC | C8H18O3
